US08536168B2
6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylamine
1-Benzyl-4-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-phthalazine (500 mg, 1.17 mmol), iron powder (523 mg, 9.38 mmol), ammonium chloride (125 mg, 0.234 mmol), ethanol (6 mL) and water (1.5 mL) are all combined in 50 mL round bottom flask with stir bar. The mixture is stirred and heated to 70° C. for 4 h. Material is filtered through a pad of Celite and washed with CH2Cl2. Concentrate to remove all ethanol and residual water. The residue is purified by flash chromatography on silica gel (0-18% MeOH/CH2Cl2) to afford the title compound (323 mg, 70%).

reactant | 1-Benzyl-4-[4-(5-nitro-pyridin-2-yl)-piperazin-1-yl]-phthalazine | 1.17 mmol, 500 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C24H22N6O2
reactant | ammonium chloride | 0.234 mmol, 125 mg | [Cl-].[NH4+]
reactant | ethanol | 6 mL | C(C)O | C2H6O
catalyst | iron | 9.38 mmol, 523 mg | [Fe] | Fe
solvent | water | 1.5 mL | O | H2O
product | 6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylamine | 323 mg, 70% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)N | C24H24N6
